US05635197
(+)-(4aR)-(10bR)-8-(3-isoquinolinyl)-10b-methyl-3,4,4a,5,6,10b-hexahydrobenzo[f]quinolin-3-one
To a suspension of (+)-(4aR)-(10bR)-8-(3-isoquinolinyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one (80 mg, 0.230 mmol), in 1.0 mL of 1,4-dioxane was added DDQ (58 mg, 1.1 equiv.) followed by bistrimethylsilyltrifluoromethyl acetamide (270 mg, 4.5 equiv.), and the solution was stirred at room temperature for 2 h, then heated at 100° for 20 h. The mixture was cooled to room temperature, diluted with ethyl acetate, and washed with 2M sodium hydroxide. The organic phase was washed with brine, dried over sodium sulfate, concentrated and chromatographed on silica gel (ethyl acetate eluent) to give, after trituration from ether/hexanes, 18 mg (24%) of the title compound as a white solid. mp 248° (decomp.) FDMS m/e=340.

reactant | (+)-(4aR)-(10bR)-8-(3-isoquinolinyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 0.230 mmol, 80 mg | C1=NC(=CC2=CC=CC=C12)C1=CC2=C([C@]3(CCC(N[C@@H]3CC2)=O)C)C=C1 | C23H22N2O
reactant | DDQ | 58 mg, 1.1 equiv. | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | bistrimethylsilyltrifluoromethyl acetamide | 270 mg, 4.5 equiv. | C[Si](C)(C)C(C(=O)N)(C(F)(F)F)[Si](C)(C)C | C9H20F3NOSi2
solvent | 1,4-dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (+)-(4aR)-(10bR)-8-(3-isoquinolinyl)-10b-methyl-3,4,4a,5,6,10b-hexahydrobenzo[f]quinolin-3-one | 18 mg, 24% | C1=NC(=CC2=CC=CC=C12)C1=CC2=C([C@]3(C=CC(N[C@@H]3CC2)=O)C)C=C1 | C23H20N2O
